US05256675
To a mixture of 2-amino-5-(4-pyridylthio)thiazole (2.5 g) and pyridine (3 g) in N,N-dimethylformamide (25 ml) was added dropwise the 4-fluorobenzoyl chloride (2.7 g) at 5° C. under ice cooling with stirring. The mixture was stirred at 5° C. for 4 hours under ice cooling. The reaction mixture was concentrated under reduced pressure and the residue was triturated with water. The precipitates were collected by filtration, washed with water and dried in vacuo to give 2-(4-fluorobenzoylamino)-5-(4-pyridylthio)thiazole (2.5 g, yield: 63.1%). mp: 220°-225° C. (dec.)

reactant | 2-amino-5-(4-pyridylthio)thiazole | 2.5 g | NC=1SC(=CN1)SC1=CC=NC=C1 | C8H7N3S2
reactant | pyridine | 3 g | N1=CC=CC=C1 | C5H5N
reactant | 4-fluorobenzoyl chloride | 2.7 g | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(4-fluorobenzoylamino)-5-(4-pyridylthio)thiazole | 2.5 g, yield: 63.1% | FC1=CC=C(C(=O)NC=2SC(=CN2)SC2=CC=NC=C2)C=C1 | C15H10FN3OS2
